US07282609B2
Four grams (17.9 mmol) of 2,2,2-trifluoro-N-(4-chlorophenyl)acetamide, 9.61 g (35.8 mmol) of diphenyl chlorophosphate, 3.62 g (35.8 mmol) of triethylamine, and 20 ml of acetonitrile were introduced into a 50 ml flask and reacted for 16 hours while being refluxed (82° C.). After the reaction, the reaction solution was cooled to room temperature, 16 ml of ethyl acetate was added thereto, and the precipitate was then filtered off. The filtrate was subjected to solvent removal by evaporation, and the crude product thus obtained was purified by column chromatography (silica gel, ethyl acetate:hexane=3:7), resulting in 3.40 g of N-(4-chlorophenyl)-2,2,2-trifluoroacetimidoyl chloride as a yellow liquid (yield: 78.6%).

reactant | 2,2,2-trifluoro-N-(4-chlorophenyl)acetamide | 17.9 mmol, Four grams | FC(C(=O)NC1=CC=C(C=C1)Cl)(F)F | C8H5ClF3NO
reactant | diphenyl chlorophosphate | 35.8 mmol, 9.61 g | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | triethylamine | 35.8 mmol, 3.62 g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-chlorophenyl)-2,2,2-trifluoroacetimidoyl chloride | 3.40 g, yield: 78.6% | ClC1=CC=C(C=C1)N=C(C(F)(F)F)Cl | C8H4Cl2F3N
